US05958918
C. N-Cbz-6-amino-5-chloro-naphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide
The title compound is prepared from 4-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)thiophene-2-carbonitrile hydrochloride as described in EXAMPLE 125, Part C using N-Cbz-6-amino-5-chloro-naphthalene-2-sulfonyl chloride in place of 7-methoxynaphthalene-2-sulfonyl chloride. The crude product is concentrated from EtOAc to afford the title compound as a white solid.

reactant | 4-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)thiophene-2-carbonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(SC1)C#N)=O
reactant | N-Cbz-6-amino-5-chloro-naphthalene-2-sulfonyl chloride | C(=O)(OCC1=CC=CC=C1)NC=1C(=C2C=CC(=CC2=CC1)S(=O)(=O)Cl)Cl | C18H13Cl2NO4S
product | N-Cbz-6-amino-5-chloro-naphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)NC(=O)OCC1=CC=CC=C1)=O | C28H23ClN4O5S2
